US06313122B1
A. N1-(3-Nitro-4-methoxybenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine
Using the procedure described in Example 102, Part A, 3-nitro-4-methoxybenzoic acid (3.1 mmol) and N1-(4-methoxybenzoyl)-1,2-benzenediamine (2.1 mmol) yielded 737 mg (83%) of the title compound.

reactant | 3-nitro-4-methoxybenzoic acid | 3.1 mmol | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1OC | C8H7NO5
reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine | 2.1 mmol | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
product | N1-(3-Nitro-4-methoxybenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine | 737 mg, 83% | [N+](=O)([O-])C=1C=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=CC1OC | C22H19N3O6
